US07622508B2
a. Preparation of 5-methyl-2-phenyl-1,3-dioxinane-5-carboxylic acid
Into a round bottom flask was added sequentially 3-hydroxy-2-hydroxymethyl-2-methyl-propionic acid (10.0 g, 74.5 mmol), acetone (75.0 mL), benzaldehyde dimethyl acetal (17.02 g, 111.0 mmol) and para-toluenesulfonic acid monohydrate (0.71 g, 3.7 mmol). The resulting mixture was stirred at ambient temperature for 4 h and then filtered. The filter cake was rinsed with cold acetone and dried under vacuum to give the title compound as a white solid. 1H NMR (CDCl3, 300 MHz) δ (ppm): 7.46-7.48 (m, 2H), 7.34-7.36 (m, 3H), 5.49 (s, 1H), 4.65 (d, J=10.8 Hz, 2H), 3.70 (d, J=11.4 Hz, 2H), 1.11 (s, 3H).

reactant | 3-hydroxy-2-hydroxymethyl-2-methyl-propionic acid | 74.5 mmol, 10.0 g | OCC(C(=O)O)(C)CO | C5H10O4
reactant | benzaldehyde dimethyl acetal | 111.0 mmol, 17.02 g | COC(C1=CC=CC=C1)OC | C9H12O2
reactant | para-toluenesulfonic acid monohydrate | 3.7 mmol, 0.71 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 75.0 mL | CC(=O)C | C3H6O
product | 5-methyl-2-phenyl-1,3-dioxinane-5-carboxylic acid | CC1(COC(OC1)C1=CC=CC=C1)C(=O)O | C12H14O4
